data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21](CCCCCCCC)C(CCC)(O)O.CCCCCCCC[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]CCCCCCCC.CCCCCCCC[O:21]C(CCC)(O)O.OS(=O)(=O)[O-] 10=20;20,21=21
CC(C)[NH2:10].[CH3:20][I:21]>>CC(C)[NH2+:10][CH3:20].[I-:21] 10=20;20,21=21
C[CH:20]([OH2+:21])[OH:10]>>C[CH:20]=[OH+:10].[OH2:21] 10=20;20,21=21
[H:20][OH2+:21].C=C[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C=C.[OH2:21] 10,11=10,20;20,21=21
CC#CC[O:11][Si-:10](C)(C)(C)F>>CC#CC[O-:11].C[Si:10](C)(C)F 10,11=11
CCCCC[C:20](=[O:21])C1=C(C=CC=C1)O.C1CC([NH:10]C1)C(=O)O.C1=CC(=CC=C1C=O)[N+](=O)[O-]>>CCCCC[C:20](C1=C(C=CC=C1)O)([NH+:10]2CCCC2C(=O)O)[O-:21].C1=CC(=CC=C1C=O)[N+](=O)[O-] 10=20;20,21=21
[C-:10]#N.C1=CC=C(C=C1)CC(C2=CC=CC=C2)([C:20](=[O:21])C3=CC=CC=C3)O>>C1=CC=C(C=C1)CC(C2=CC=CC=C2)([C:20]([C:10]#N)(C3=CC=CC=C3)[O-:21])O 10=20;20,21=21
C1=CC=C(C=C1)[CH:20](C#N)[O:21][P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.C1=CC(=CC=C1CC(=O)[O-:10])N(=O)=O.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC>>C1=CC=C(C=C1)[CH:20](C#N)[O:10]C(=O)CC2=CC=C(C=C2)N(=O)=O.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC 10=20;20,21=21,22
CC1=CO[CH:10]=[CH:11]1.[Br:20][Br:21]>>CC1=CO[CH:10]([CH+:11]1)[Br:20].[Br-:21] 10,11=10,20;20,21=21
[H:20][Br:21].[CH2:10]=[CH:11]CBr>>[H:20][CH2:10][CH+:11]CBr.[Br-:21] 10,11=10,20;20,21=21
C[C:20](=[O+:21]CCO)C.[OH2:10]>>C[C:20](C)([OH2+:10])[O:21]CCO 10=20;20,21=21
[H:20][OH2+:21].C[NH:12][CH:11]=[CH:10]CO>>[H:20][CH:10](CO)[CH:11]=[NH+:12]C.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)O.CC(=N[OH:10])C(C)(C)C>>[H:20][OH+:10]N=C(C)C(C)(C)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[C:20](C)([Cl:10])[Cl:21]>>C[C:20](=[Cl+:10])C.[Cl-:21] 10=20;20,21=21
C[O-:10].C[Si:20](C)(C)F>>C[O:10][Si-:20](C)(C)(C)F 10=20,
CC[OH+:21][C:20](CC#N)(NC)[OH:10]>>CC[OH:21].CN[C:20](=[OH+:10])CC#N 10=20;20,21=21
C[NH:10][CH2:20][Cl:21]>>C[NH+:10]=[CH2:20].[Cl-:21] 10=20;20,21=21
CC(C)CO[C:20]([NH3+:21])([O-:10])Cl>>CC(C)CO[C:20](=[O:10])Cl.[NH3:21] 10=20;20,21=21
[H:20][O+:21](CC)C(C)(O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C)(O)O 10=20;20,21=21
[H:20][O+:21](CC#C)[Si-](C)(C)(C)Cl.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.C[Si-](C)(C)([O:21]CC#C)Cl 10=20;20,21=21
CC(C)OC(CCC1=CC=CC=C1)C[CH+:20][CH2:10][Si-:11](C)(C)(C)OS(=O)(=O)C(F)(F)F.C[Si](C)(C)O[Si](C)(C)C>>CC(C)OC(CCC1=CC=CC=C1)C[CH:20]=[CH2:10].C[Si:11](C)(C)OS(=O)(=O)C(F)(F)F.C[Si](C)(C)O[Si](C)(C)C 10,11=10,20
C[C:20](C)([CH2:21]C=O)[O-:10]>>C[C:20](=[O:10])C.[CH2-:21]C=O 10=20;20,21=21
CCCCCC(C)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCCCCC(C)O[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
C[S+:20](C)Cl.[Cl-:10]>>C[S:20](C)(Cl)[Cl:10] 10=20,
[H:20][OH2+:21].CC(=CC(=[O:10])C)NC1=C2C(=CC=C1)NC=N2.CC(=O)[O-]>>[H:20][O+:10]=C(C)C=C(C)NC1=C2C(=CC=C1)NC=N2.CC(=O)[O-].[OH2:21] 10=20;20,21=21
[H:20][CH:21]1C2=C(CCCC2)[NH+:23]=[C:22]1C3=CC=C(C=C3)Cl.[OH-:10].CO.N.O>>[H:20][OH:10].C1CCC2=C(C1)[CH:21]=[C:22]([NH:23]2)C3=CC=C(C=C3)Cl.CO.N.O 10=20;22,23=23;20,21=21,22
[H:20][C:21]1(C=CC=C[CH+:22]1)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[CH:22]=[C:21](C=C1)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][CH:21]1[C:22](=[OH+:23])C(CC2C13CCN(C2CC4=C3C(=C(C=C4)OC)O)CC=C)OC.COC1CC2C3CC4=C(C2(CC[N:10]3CC=C)CC1=O)C(=C(C=C4)OC)O.CS(=O)(=O)[O-]>>[H:20][N+:10]1(CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC)CC=C.COC1CC2C3CC4=C(C2(CCN3CC=C)[CH:21]=[C:22]1[OH:23])C(=C(C=C4)OC)O.CS(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]CC.CCOC(=O)C1(C(CCC2(C1CC(CC2=O)([OH:10])OC)C#N)C)C(=O)OCC.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]C1(CC2C(CCC(C2(C(=O)OCC)C(=O)OCC)C)(C(=O)C1)C#N)OC.CC[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH:21].COC1=C(C2=C(CC3C4(C2(CCN3CCC5=CC=CC=C5)C=CCC4)O)C=C1)[O-:10].N#N.[K+]>>[H:20][O:10]C1=C(C=CC2=C1C34CCN(C(C2)C3(CCC=C4)O)CCC5=CC=CC=C5)OC.[OH-:21].N#N.[K+] 10=20;20,21=21
C[Si:20](C)(C)CC[O-:10]>>C[Si-:20]1(CC[O:10]1)(C)C 10=20,
[H:20][O:21]C(=O)C1=C(C2=C(C(=C1C(=O)OC)C3=CC(=C(C=C3)OC)OC)C(=C(C(=C2)OC)OC)OC)OCOC.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CCCCCCO>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.COCOC1=C(C(=C(C2=C1C=C(C(=C2OC)OC)OC)C3=CC(=C(C=C3)OC)OC)C(=O)OC)C(=O)[O-:21].CCCCCCO 10=20;20,21=21
[OH2:10].O[P+:20](O)(O)I>>[OH2+:10][P:20](O)(O)(O)I 10=20,
[H:20][CH:21]1[C:22](=[OH+:23])C2=C(N1)C=CC=C2.[OH-:10]>>[H:20][OH:10].C1=CC2=C(C=C1)N[CH:21]=[C:22]2[OH:23] 10=20;22,23=23;20,21=21,22
C1=CC=C(C=C1)C[NH:10][C:20](CCC(=O)C2=CC=CC=C2)(C3=CC=CC=C3)[OH2+:21].CC(=O)[O-]>>C1=CC=C(C=C1)C[NH+:10]=[C:20](CCC(=O)C2=CC=CC=C2)C3=CC=CC=C3.[OH2:21].CC(=O)[O-] 10=20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)S(=O)(=O)O)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C(O[CH:22]=[C:21]1S(=O)(=O)O)S(=O)(=O)O 10=20;20,21=21,22
[Li-:20]1[N+](CC[N+]1(C)C)(C)C.[CH2-:10]C1CC1CC=C>>[Li-2:20]1([N+](CC[N+]1(C)C)(C)C)[CH2:10]C2CC2CC=C 10=20,
